US08466167B2
To a stirred solution of 3-chloro-5-(hydroxymethyl)picolinonitrile (from the previous step) in CH2Cl2 (0.2 M) at 0° C. was added thionyl chloride (10 eq). After stirring at room temperature overnight the reaction mixture was concentrated under vacuum and the resulting crude was purified by chromatography (silica gel, 20-50% EtOAc in hexanes) to afford 3-chloro-5-(chloromethyl)picolinonitrile as a colorless oil.

reactant | 3-chloro-5-(hydroxymethyl)picolinonitrile | ClC=1C(=NC=C(C1)CO)C#N | C7H5ClN2O
reactant | thionyl chloride | 10 eq | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 0.2 M | C(Cl)Cl | CH2Cl2
product | 3-chloro-5-(chloromethyl)picolinonitrile | ClC=1C(=NC=C(C1)CCl)C#N | C7H4Cl2N2
